US07728030B2
(S)-tert-butyl 1-oxo-1-(quinolin-3-yl)propan-2-ylcarbamate (122c)
(S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (2.5 g, 10.76 mmol) was suspended in THF (5 mL) and stirred at −10° C., isopropylmagnesium chloride 2.0M solution in THF (5.4 ml, 10.80 mmol) was added and a solution was formed. To this solution was added a solution of Lithium tri(3-quinolinyl)magnesiate in THF/Hexane, prepared from 3-bromoquinoline (1.471 ml, 10.81 mmol) according to the procedure described by Sylvain Dumouchel et-al. in Tetrahedron 59 (2003) 8629-8640. The mixture was stirred at −10° C. for 30 min and was the allowed to reach r.t. and stirred over night, 15 h. The reaction mixture, a clear red solution, was slowly poured into ice-cooled 1M HCl (aq) (100 mL). EtOAc (150 mL) was added and the mixture was stirred for a few min, the water phase was extracted once with EtOAc, the combined EtOAc solutions was further washed with saturated NaHCO3 (aq) and brine. The crude material was purified by flash-chromatography on silica using a gradient of 0% to 40% EtOAc in Heptane. The obtained material was the further purified by HPLC to afford the subtitle compound as a yellow sticky oil. Yield 1.6 g (49%)

reactant | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 10.76 mmol, 2.5 g | CON(C([C@H](C)NC(OC(C)(C)C)=O)=O)C | C10H20N2O4
reactant | isopropylmagnesium chloride | 2.0M | C(C)(C)[Mg]Cl
reactant | 3-bromoquinoline | 10.81 mmol, 1.471 ml | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | HCl | 1M, 100 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF Hexane | C1CCOC1.CCCCCC
solvent | THF | 10.80 mmol, 5.4 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 1-oxo-1-(quinolin-3-yl)propan-2-ylcarbamate | O=C([C@H](C)NC(OC(C)(C)C)=O)C=1C=NC2=CC=CC=C2C1 | C17H20N2O3
